US08835458B2
<Step 7> Preparation of (7-methoxy-6-nitro-quinazolin-4-yl)pyridin-2-ylamine
7-methoxy-6-nitroquinazolin-4-ylamine (300 mg, 1.36 mmol) in <Step 6> of Example 23, 2-bromopyridine (0.2 mL, 2.04 mmol), palladium acetate (31 mg, 0.136 mmol), Xantphos (158 mg, 0.273 mmol) and cesium carbonate (888 mg, 2.73 mmol) were placed under 6.5 mL of 1,4-dioxane in a closed container, degassed, and the mixture was stirred at 120° C. for 2 hours. The mixture was cooled to room temperature, 50 mL water was added thereto, and the mixture was washed with a solution of chloroform/isopropanol (4:1). The mixture was dried over sodium sulfate and filtered and distilled under reduced pressure. The resulting oil was purified by column chromatography to obtain the title compound (78.5 mg, 20%).

reactant | 7-methoxy-6-nitroquinazolin-4-ylamine | 1.36 mmol, 300 mg | COC1=C(C=C2C(=NC=NC2=C1)N)[N+](=O)[O-] | C9H8N4O3
reactant | 2-bromopyridine | 2.04 mmol, 0.2 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | Xantphos | 0.273 mmol, 158 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 2.73 mmol, 888 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.136 mmol, 31 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (7-methoxy-6-nitro-quinazolin-4-yl)pyridin-2-ylamine | 78.5 mg, 20% | COC1=C(C=C2C(=NC=NC2=C1)NC1=NC=CC=C1)[N+](=O)[O-] | C14H11N5O3
